US06645919B1
2-[2-Methyl-3-(3-methyl-4,5-dihydroisoxazol-5-yl)-4-methylsulfonylbenzoyl]-1-hydroxycyclohex-1-en-3-one
A solution of 2.3 g (7.7 mmol) of 2-methyl-3-(3-methyl-4,5-dihydroisoxazol-5-yl)-4-methylsulfonylbenzoyl chloride in 50 ml of acetonitrile was added dropwise at 0-5° C. to a solution of 0.86 g (7.7 mmol) of 1-hydroxycyclohex-1-en-3-one and 2.13 ml (15.4 mmol) of triethylamine in 50 ml of acetonitrile. After the mixture had been stirred for three hours at room temperature, a further 0.64 ml (4.6 mmol) of triethylamine and 0.16 g (15 mmol) of trimethylsilyl cyanide were added and the mixture was stirred for twelve hours at room temperature. The reaction mixture was then stirred into 800 ml of water and washed with methylene chloride. The aqueous phase was then brought to pH 4 using 10% strength hydrochloric acid and extracted with methylene chloride. After the organic phase had been dried, the solvent was removed and the residue was taken up in diethyl ether and digested. The resulting residue was filtered off with suction. This gave 1.3 g (3.3 mmol; 43% of theory) of the title compounds.

reactant | 2-methyl-3-(3-methyl-4,5-dihydroisoxazol-5-yl)-4-methylsulfonylbenzoyl chloride | 7.7 mmol, 2.3 g | CC1=C(C(=O)Cl)C=CC(=C1C1CC(=NO1)C)S(=O)(=O)C | C13H14ClNO4S
reactant | 1-hydroxycyclohex-1-en-3-one | 7.7 mmol, 0.86 g | OC1=CC(CCC1)=O | C6H8O2
reactant | triethylamine | 15.4 mmol, 2.13 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 4.6 mmol, 0.64 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl cyanide | 15 mmol, 0.16 g | C[Si](C)(C)C#N | C4H9NSi
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | water | 800 ml | O | H2O
product | 2-[2-Methyl-3-(3-methyl-4,5-dihydroisoxazol-5-yl)-4-methylsulfonylbenzoyl]-1-hydroxycyclohex-1-en-3-one | CC1=C(C(=O)C2=C(CCCC2=O)O)C=CC(=C1C1CC(=NO1)C)S(=O)(=O)C | C19H21NO6S
